US04499299
d. 4-(4-Acetyl-3-hydroxy-2-propylphenoxy)methylcinnamic acid
A solution of 1.0 g (2.71 mmol) of methyl 4-(4-acetyl-3-hydroxy-2-propylphenoxy)methylcinnamate and 569 mg (13.57 mmol) of lithium hydroxide, monohydrate, in a mixture of 9 ml of MeOH, 9 ml of THF and 2 ml of water was stirred at 50° C. for 2 hours. The reaction mixture was cooled to room temperature, diluted with 100 ml of 0.5N HCl solution to give a fine white precipitate. The precipitate was isolated by filtration and recrystallized from ethanol to give 750 mg of the title compound as a fine, white cottony solid; mp 203°-204° C.

reactant | methyl 4-(4-acetyl-3-hydroxy-2-propylphenoxy)methylcinnamate | 2.71 mmol, 1.0 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=CC(=O)OC)C=C2)C=C1)CCC)O | C22H24O5
reactant | lithium hydroxide, monohydrate | 13.57 mmol, 569 mg | O.[OH-].[Li+]
reactant | THF | 9 ml | C1CCOC1 | C4H8O
reactant | water | 2 ml | O | H2O
solvent | MeOH | 9 ml | CO | CH4O
solvent | HCl | 0.5N, 100 ml | Cl | ClH
product | 4-(4-Acetyl-3-hydroxy-2-propylphenoxy)methylcinnamic acid | 750 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=CC(=O)O)C=C2)C=C1)CCC)O | C21H22O5
